US09422215B2
Reaction of 2-(2-methoxyphenoxy)-1-(4-methoxyphenyl)ethan-1-ol
2-(2-methoxyphenoxy)-1-(4-methoxyphenyl)ethan-1-ol (30 mg, 1.4×10−4 mol) and wet Raney Ni 4200 (25 mg, 4.2×10−4 mol, 100 mol %) is weighed into a reaction flask under argon. Degassed i-PrOH (5 mL) is added and the flask is capped with a rubber septa and the mixture is heated (80° C.). The reaction is run for 18 hours and the reaction mixture is cooled. Nickel was removed with a magnet. Concentration gave 25 mg of a reaction mixture which is, according to analysis by HNMR, is 1-(4-methoxyphenyl)ethan-1-ol and 2-methoxyphenol. The β-O-4 bond was 100% broken.

reactant | 1-(4-methoxyphenyl)ethan-1-ol | COC1=CC=C(C=C1)C(C)O | C9H12O2
reactant | 2-methoxyphenol | COC1=C(C=CC=C1)O | C7H8O2
product | 2-(2-methoxyphenoxy)-1-(4-methoxyphenyl)ethan-1-ol | COC1=C(OCC(O)C2=CC=C(C=C2)OC)C=CC=C1 | C16H18O4
